US05786374
Methyl 2-[[[(1-{1,2-benzisoxazol-3-yl}ethylidene)amino]oxy]methyl]-α-(methoxymethylene)phenylacetate (compound 3.1 in Table 3)
A mixture of 0.8 g of 1-(1,2-benzisoxazol-3-yl)ethanone oxime, 1.3 g of methyl 2-(bromomethyl)-α-(methoxymethylene)phenylacetate and 1 g of potassium carbonate in 15 ml of acetonitrile is refluxed for 4 h. The reaction mixture is cooled and filtered and the filtrate is concentrated under vacuum. The residue is dissolved in ethyl acetate and the solution is washed twice with water and once with a saturated solution of sodium chloride and dried over sodium sulfate. After removal of the solvent under vacuum, the residue is purified by chromatography on silica gel with ethyl acetate/hexane (1:3), giving the title compound having a melting point of 97°-98° C.

reactant | 1-(1,2-benzisoxazol-3-yl)ethanone oxime | 0.8 g | O1N=C(C2=C1C=CC=C2)C(C)=NO | C9H8N2O2
reactant | methyl 2-(bromomethyl)-α-(methoxymethylene)phenylacetate | 1.3 g | BrCC1=C(C=CC=C1)C(C(=O)OC)=COC | C12H13BrO3
reactant | potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | Methyl 2-[[[(1-{1,2-benzisoxazol-3-yl}ethylidene)amino]oxy]methyl]-α-(methoxymethylene)phenylacetate | O1N=C(C2=C1C=CC=C2)C(C)=NOCC2=C(C=CC=C2)C(C(=O)OC)=COC | C21H20N2O5
